US04356207
5-(2,3-Dimethoxyphenoxy)-1H-tetrazole
To a stirred mixture of 50 g. of 2,3-dimethoxyphenol, 35 g. of cyanogen bromide and 300 ml. of ether, maintained at 10°-15° C., 47 ml. of triethylamine was added dropwise over a period of 30 minutes. A solution of 25 g. of sodium azide in 100 ml. of water was added rapidly and the mixture was heated under reflux with stirring for an hour.

reactant | 2,3-dimethoxyphenol | COC1=C(C=CC=C1OC)O | C8H10O3
reactant | cyanogen bromide | N#CBr | CBrN
reactant | ether | CCOCC | C4H10O
reactant | sodium azide | [N-]=[N+]=[N-].[Na+]
solvent | water | O | H2O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 5-(2,3-Dimethoxyphenoxy)-1H-tetrazole | COC1=C(OC2=NN=NN2)C=CC=C1OC | C9H10N4O3
